Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / sulfamethoxazole / food dyes / Talwin / morphine / 
Penicillins / erythromycin base
 
Attending: ___.
 
Chief Complaint:
Retroperitoneal hemorrhage
 
Major Surgical or Invasive Procedure:
Cardiac catheterization without stenting, complicated by 
retroperitoneal bleed (___)

 
History of Present Illness:
Ms. ___ is ___ year old woman a history of Factor V Leiden 
and stage III CKD who presented today for cardiac 
catheterization that was complicated by retroperitoneal bleed.

The patient reports that recently she has noticed occasional 
brief chest pains when angry, chest tightness when walking her 
dog, and increasing dyspnea with walking up the stairs or a 
hill. Her symptoms have been increasing in frequency and she had 
a stress test that showed anteroapical ischemia. She is now 
referred for coronary angiogram.

Coronary angiogram revealed patent coronaries. Right radial 
access was attempted and the patient received 4000 units 
heparin. Right radial access was unsuccessful, so right femoral 
was accessed. Post procedurally, the patient complained of pain 
at the right groin site and she developed a small hematoma. The 
pain worsened and her BP dropped to 60/30. Atropine 0.5 mg and 
500cc NS were given with improvement in BP to 118/40. Patient 
was accompanied to CT with an interventional fellow. CT abdomen 
pelvis revealed a large retroperitoneal hematoma. The patient 
was typed and crossed for 2 units pRBCs and admitted to the CCU 
for monitoring.
 
On arrival to the CCU, the patient complains of pain in her 
right groin. She denies any chest pain, shortness of breath, 
lightheadedness. She denies any other complaints at this time.

REVIEW OF SYSTEMS: 10-point ROS otherwise negative. 

 
Past Medical History:
CKD, stage III
Hypothyroidism
Leiden Factor V, heterozygous
Vitamin D Deficiency 
Adrenal insufficiency per patient report
___: left foot crush injury
Prior ankle fracture
Arthritis in both knees
Diverticulosis, internal hemorrhoids
Kidney stones s/p resection and re-implantation of the ureter
Prior pneumonia
Chronic cough due to allergies: Codeine, erythromycin, morphine,
penicillin, sulfa, talwin,artificial sweeteners 

 
Social History:
___
Family History:
Brother had CABG in his ___. Mother had valve replacements.
Father had a stroke in his ___. 

 
Physical Exam:
====================
ADMISSION
====================
VS: 98.4 131/69 73 13 99/RA 
Weight: 85.2kg 
Tele: no events 
GEN: Well appearing, NAD, breathing comfortably, speaking full 
sentences 
HEENT: EOMI PEERLA NC/AT MMM no conjunctival pallor 
NECK: JVP at clavicle 
CV: RRR, nl S1 S2, ___ blowing systolic murmur, no 
heaves/thrills 
LUNGS: CTAB, nl excursion on anterior exam 
ABD: Soft, nondistended, tender in RLQ with guarding, +BS 
EXT: No clubbing, cyanosis, edema; peripheral pulses 2+ DP; R 
foot slightly cool to touch compared to L 
SKIN: cool on R foot, no rashes/lesions 
NEURO: CN ___ intact, strength 5+ and sensation intact 
proximally and distally throughout 
ACCESS: 2 PIV
====================
DISCHARGE
====================
VITALS: T 98.0 BP 106/60-133/66 HR ___ RR 19 95%RA
GEN: Well appearing, NAD, breathing comfortably, speaking full 
sentences 
HEENT: EOMI PERRLA NC/AT MMM no conjunctival pallor 
NECK: JVP at clavicle 
CV: RRR, nl S1 S2, ___ blowing systolic murmur, no 
heaves/thrills; right groin with mild tenderness, no hematoma 
LUNGS: CTAB, nl excursion on anterior exam 
ABD: Soft, nondistended, nontender, +BS 
EXT: No clubbing, cyanosis, edema; peripheral pulses 2+ DP
SKIN: No rashes/lesions 
NEURO: CN ___ intact, strength 5+ and sensation intact 
proximally and distally 
 
Pertinent Results:
==================
ADMISSION LAB:
==================
___ 05:46PM BLOOD WBC-7.2 RBC-3.93 Hgb-12.2 Hct-38.4 MCV-98 
MCH-31.0 MCHC-31.8* RDW-13.7 RDWSD-49.3* Plt ___
___ 10:15PM BLOOD Glucose-110* UreaN-27* Creat-1.4* Na-139 
K-4.3 Cl-112* HCO3-17* AnGap-14
___ 10:15PM BLOOD Calcium-8.4 Phos-3.4 Mg-2.2
___ 10:21PM BLOOD ___ pH-7.52* Comment-GREEN TOP
___ 10:21PM BLOOD Lactate-1.4
___ 06:30PM URINE Color-Straw Appear-Hazy Sp ___
___ 06:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-LG
___ 06:30PM URINE RBC-4* WBC-76* Bacteri-FEW Yeast-NONE 
Epi-2
========================
PERTINENT RESULTS:
========================
LABS:
========================
___ 05:46PM BLOOD WBC-7.2 RBC-3.93 Hgb-12.2 Hct-38.4 MCV-98 
MCH-31.0 MCHC-31.8* RDW-13.7 RDWSD-49.3* Plt ___
___ 10:15PM BLOOD WBC-10.4* RBC-3.89* Hgb-11.9 Hct-36.7 
MCV-94 MCH-30.6 MCHC-32.4 RDW-14.3 RDWSD-48.6* Plt ___
___ 04:00AM BLOOD WBC-10.8* RBC-3.94 Hgb-12.2 Hct-37.2 
MCV-94 MCH-31.0 MCHC-32.8 RDW-14.6 RDWSD-50.4* Plt ___
___ 12:50PM BLOOD Hgb-12.3 Hct-40.1
___ 06:00AM BLOOD WBC-8.6 RBC-3.62* Hgb-11.1* Hct-34.9 
MCV-96 MCH-30.7 MCHC-31.8* RDW-14.6 RDWSD-51.9* Plt ___
===
___ 10:21PM BLOOD Lactate-1.4
___ 04:10AM BLOOD Lactate-1.4
========================
IMAGING/STUDIES:
========================
ECG (___): 
Sinus rhythm. Prolonged P-R interval. No previous tracing 
available for comparison.  
  
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
78 ___   60 -33 29 
===
Cardiac catheterization (___):
Dominance: Right
The LMCA is patent.
The LAD is patent.
The ___ Diagonal is patent.
The circumflex is patent.
The ___ Marginal is patent.
The Ramus is patent.
The RCA is patent.
The Right PDA is patent.
===
CT Abdomen/Pelvis Without Contrast (___): 
RETROPERITONEUM: Is a large retroperitoneal hemorrhage extending 
from the right para renal space, anterior to the psoas muscle, 
towards the right femoral canal. There is additional extension 
of the retroperitoneal hemorrhage along the extraperitoneal 
space in the pelvis, causing mild mass effect on the bladder. No 
intraperitoneal extension of hemorrhage. 

IMPRESSION: 
1. Large right retroperitoneal hemorrhage. 
2. Bilateral peripelvic renal cysts. 
========================
DISCHARGE LABS:
========================
___ 06:00AM BLOOD WBC-8.6 RBC-3.62* Hgb-11.1* Hct-34.9 
MCV-96 MCH-30.7 MCHC-31.8* RDW-14.6 RDWSD-51.9* Plt ___
___ 06:00AM BLOOD Glucose-92 UreaN-23* Creat-1.3* Na-140 
K-4.3 Cl-111* HCO3-22 AnGap-11
___ 06:00AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.4
___ 01:10PM BLOOD WBC-9.5 RBC-3.87* Hgb-11.9 Hct-37.4 
MCV-97 MCH-30.7 MCHC-31.8* RDW-14.6 RDWSD-52.1* Plt ___
 
Brief Hospital Course:
Ms. ___ is ___ year old woman a history of Factor V Leiden 
and stage III CKD who presented for cardiac catheterization that 
was complicated by retroperitoneal bleed.

# CORONARIES: Patient coronaries with normal LVEDP. 
# PUMP: LVEF 67%
# RHYTHM: Sinus.  

==================
ACTIVE ISSUES:
==================

# Retroperitoneal hemorrhage: Patient presented ___ for 
cardiac catheterization that revealed patent coronaries; no 
intervention was performed. The procedure was initially 
attempted with right radial access and patient was given 
heparin; catheterization was subsequently successfully performed 
with right femoral access that was complicated by 
retroperitoneal bleed. The patient was initially hemodynamically 
unstable with BP 60/30 and bradycardia. Her hemodynamics 
improved after atropine and IVF and she was admitted to the 
cardiac intensive care unit for further monitoring. She was 
transfused 1 unit packed RBCs. She remained hemodynamically 
stable with stable hematocrit. Her H/H at discharge was 
11.9/37.4.

==================
CHRONIC ISSUES:
==================
# Hypothyroidism: Continued home Armour Thyroid 30 mg daily
# CAD: Continued ASA 81 mg daily
# Vitamins: Held while inpatient; restarted upon discharge

====================
TRANSITIONAL ISSUES
====================
- Please check CBC at next appointment on ___.
- Light activity only until patient is seen in follow up.
- Communication: ___ (son): ___  
- Code: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO Q6H:PRN pain 
2. Thyroid 30 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. lactobacillus combination no.4 Dose is Unknown  oral Unknown 
5. Multivitamins 1 TAB PO DAILY 
6. Hyaluronic Acid (chond-collgn) (hyalur ac-chond sul-colg 
II-AA) 40-80-400 mg oral Unknown 
7. turmeric (bulk) Dose is Unknown  miscellaneous Unknown 
8. quercetin dihydrate (bulk) 100 % miscellaneous Unknown 
9. Cyanocobalamin 200 mcg PO DAILY 
10. Vitamin D 5000 UNIT PO DAILY 

 
Discharge Medications:
1. Thyroid 30 mg PO DAILY 
2. Aspirin 81 mg PO DAILY:PRN pain 
3. Cyanocobalamin 200 mcg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Vitamin D 5000 UNIT PO DAILY 
6. turmeric (bulk) Dose is Unknown  MISCELLANEOUS Frequency is 
Unknown 
7. quercetin dihydrate (bulk) 100 % miscellaneous Unknown 
8. Multivitamins 1 TAB PO DAILY 
9. lactobacillus combination no.4 Dose is Unknown  ORAL 
Frequency is Unknown 
10. Hyaluronic Acid (chond-collgn) (hyalur ac-chond sul-colg 
II-AA) 40-80-400 mg oral Unknown 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
- Coronary artery disease
- Retroperitoneal hemorrhage

SECONDARY
- Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you. You were admitted for a 
cardiac catheterization to evaluate the blood flow to your 
heart. The catheterization showed normal blood flow, and you did 
not need any interventions such as a stent. However, the 
procedure was complicated by a bleed at the site of the catheter 
insertion, requiring a blood transfusion. The bleed was 
subsequently stopped, and your blood counts remained stable.

Please do not do any strenuous exercise until after you are seen 
by your doctor.

Please continue to take your medications as prescribed, and 
attend your follow up appointments. 

We wish you the best of health,

Sincerely, 

Your ___ care team
 
Followup Instructions:
___